US05310735
(2S,4S)-2-({4-[2-(4-Nitrobenzyloxycarbonyl)oxyethyl[-1-piperazinylcarbonyl}-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
5.86 g of 4-dimethylaminopyridine and a solution of 10.35 g of p-nitrobenzyl chloroformate in 40 ml of anhydrous methylene chloride were added to a solution of 22.35 g of (2S,4S)-2-[4-(2-hydroxyethyl)-1-piperazinylcarbonyl]-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (prepared as described in Preparation 7) in 160 ml of anhydrous methylene chloride, and the resulting mixture was stirred at room temperature for 1 hour. At the end of this time, the reaction mixture was diluted with 300 ml of ethyl acetate and washed with 100 ml of water, with 100 ml of a saturated aqueous solution of sodium hydrogencarbonate and with 100 ml of a saturated aqueous solution of sodium chloride, in that order. The solvents were removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel. Those fractions eluted with ethyl acetate were collected and concentrated by evaporation under reduced pressure, to give 26.35 g of the title compound as a colorless powder.

reactant | p-nitrobenzyl chloroformate | 10.35 g | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | (2S,4S)-2-[4-(2-hydroxyethyl)-1-piperazinylcarbonyl]-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 22.35 g | OCCN1CCN(CC1)C(=O)[C@H]1N(C[C@H](C1)SCC1=CC=C(C=C1)OC)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C27H34N4O7S
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | 5.86 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Nitrobenzyloxycarbonyl)oxyethyl[-1-piperazinylcarbonyl}-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 26.35 g | [N+](=O)([O-])C1=CC=C(COC(=O)OCCC2(N(CC(C2)SCC2=CC=C(C=C2)OC)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N2CCNCC2)C=C1 | C35H39N5O11S
